US07547691B2
(D). Preparation of 4-cyanomethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester
To 4-methanesulfonyloxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester (0.440 g, 1.43 mmol) dissolved in DMSO (3 mL) is added potassium cyanide (0.373 g, 5.73 mmol). The mixture is heated to 130° C. for 18 hours. The reaction mixture is cooled and diluted with EtOAc and water. The organic layer is concentrated, taken up in MeOH and concentrated again to give the title compound as a brown oil (263 mg, 77% yield).

reactant | 4-methanesulfonyloxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 1.43 mmol, 0.440 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)COS(=O)(=O)C | C13H25NO5S
reactant | potassium cyanide | 5.73 mmol, 0.373 g | [C-]#N.[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-cyanomethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 263 mg, 77% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)CC#N | C13H22N2O2
